US03953432
4,4-Dimethyl-2-(2-phenylethenyl)-2-oxazoline (P-1886) was prepared by reacting benzaldehyde with 2,4,4,-trimethyl-2-oxazoline. The product had a boiling point of 112° at 0.45mm. The nmr spectrum was consistent with the proposed structure.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2,4,4,-trimethyl-2-oxazoline | CC=1OCC(N1)(C)C | C6H11NO
product | 4,4-Dimethyl-2-(2-phenylethenyl)-2-oxazoline | CC1(N=C(OC1)C=CC1=CC=CC=C1)C | C13H15NO
